US05153318
a) 2-Amino-6-propoxypurine
Sodium (0.68 g, 29.5 mmol Aldrich lot #9621CL) was added in portions to anhydrous propanol (25 mL). Upon complete dissolution 2-amino-6-chloropurine (1 g, 5.9 mmol, Sigma lot #69F4064) was added and the reaction heated in an 85° C. oil bath under a nitrogen atmosphere for 20 hours. The solution was cooled and neutralized with Dowex 50W×12 (H+ form) (BioRad, 140-270 mesh), an acidic ion exchange resin. The resin was filtered, the filtrate collected and adsorbed onto silica gel column and eluted with CHCl3 /MeOH (9:1, v/v). Combination and evaporation of appropriate fractions gave 0.89 g of slightly impure material. Adsorption of this material onto silica gel followed by elution with EtOAc/MeOH (10:1, v/v) gave, after evaporation of combined product fractions, 0.76 g, (3.9 mmol; 67%). mp=198°-200° C.

reactant | Sodium | 29.5 mmol, 0.68 g | [Na] | Na
reactant | 2-amino-6-chloropurine | 5.9 mmol, 1 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | propanol | 25 mL | C(CC)O | C3H8O
product | 2-Amino-6-propoxypurine | NC1=NC(=C2NC=NC2=N1)OCCC | C8H11N5O
